US07906517B2
2-[(2-Benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-ol (7.68 g) is dissolved in N,N-dimethylformamide (100 ml) and thereto are added ethyl 4-bromo-butyrate (2.3 ml) and potassium carbonate (2.22 g), and the mixture is stirred at room temperature overnight. To the reaction solution are added ethyl 4-bromo-butyrate (2.3 ml) and potassium carbonate (2.22 g), and the mixture is stirred at room temperature for 3 days. To the reaction solution are added water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→4:1) to give ethyl 4-{2-[(2-benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate as crude product (11.3 g). MS (m/z): 716 [M+H]+

reactant | 2-[(2-Benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-ol | 7.68 g | C(C1=CC=CC=C1)OC1=C(CN(C2=NC=C(C=N2)O)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C28H20F9N3O2
reactant | ethyl 4-bromo-butyrate | 2.3 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 2.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromo-butyrate | 2.3 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 2.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-{2-[(2-benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | C(C1=CC=CC=C1)OC1=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C34H30F9N3O4
